*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXF6R3ARA331MH70G
*//   Date        : 2020/12/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXF6R3ARA331MH70G_20deg-C 1 2

C1 4 2 2.83e-04
C2 5 2 4.75e-05
C3 6 2 8.05e-06
R1 3 4 8.76e-03
R2 4 5 5.99e-02
R3 5 6 7.54e+00
L1 1 3 3.40e-09

.ENDS
